US07199239B2
Intermediate 72: N-Butyl-N-(2,4′-dimethyl-1,1′-biphenyl-3-yl)amine
To solution of N-(2,4′-dimethyl-1,1′-biphenyl-3-yl)butanamide (15 g, 0.056 mol) in anhydrous tetrahydrofuran (500 ml) was added dropwise lithiumaluminium hydride (1 M solution in ether; 112 ml) under nitrogen. The resultant mixture was heated at 75° C. for 5.5 h then allowed to cool to room temperature for 16 h. To the reaction mixture was added dropwise wet ether (50 ml), then 2M NaOH (50 ml) and water (50 ml). The mixture was filtered, the solid residues washed with ether and the filtrate dried (Na2SO4), and the solvents removed in vacuo. The residue was partitioned between CH2Cl2 (400 ml) and water (20 ml). The CH2Cl2 layer was dried (Na2SO4) and the solvent removed in vacuo to afford the title compound as a yellow oil (13.12 g).

reactant | N-(2,4′-dimethyl-1,1′-biphenyl-3-yl)butanamide | 0.056 mol, 15 g | CC1=C(C=CC=C1NC(CCC)=O)C1=CC=C(C=C1)C | C18H21NO
reactant | lithiumaluminium hydride | 1 M, 112 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ether | 50 ml | CCOCC | C4H10O
reactant | NaOH | 2M, 50 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | water | 50 ml | O | H2O
product | N-Butyl-N-(2,4′-dimethyl-1,1′-biphenyl-3-yl)amine | 13.12 g | C(CCC)NC=1C(=C(C=CC1)C1=CC=C(C=C1)C)C | C18H23N
